2114-01-29 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Admitted to CCU overnight
   - Put out 1.6L by 2:00am to Lasix 100mg IV from ED. Gave addl Lasix
   100mg IV x 1 to reach goal of net negative 2L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 1 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2114-1-29**] 03:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-29**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 84 (72 - 94) bpm
   BP: 134/93(103) {124/86(95) - 152/119(125)} mmHg
   RR: 19 (16 - 21) insp/min
   SpO2: 95%
             Total In:
                                                                     72 mL
                                                                     75 mL
   PO:
             TF:
   IVF:
                                                                     72 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    660 mL
   Urine:
                                                                    850 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,278 mL
                                                                   -585 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   239 K/uL
   9.9 g/dL
   120 mg/dL
   3.1 mg/dL
   20 mEq/L
   3.6 mEq/L
   89 mg/dL
   107 mEq/L
   140 mEq/L
   28.3 %
   8.7 K/uL
        [image002.jpg]
                             [**2114-1-29**]  12:22 AM
                             [**2114-1-29**]  04:20 AM
   WBC
   8.7
   Hct
   28.3
   Plt
   239
   Cr
   3.1
   TropT
   0.27
   0.29
   Glucose
   120
   Other labs: PT / PTT / INR:13.9/32.6/1.2, CK / CKMB /
   Troponin-T:100/7/0.29, Ca++:9.3 mg/dL, Mg++:2.6 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   Patient is a 56 year old male with history of renal transplant [**2090**],
   s/p AVR who presents with exacerbation of heart failure.
   .
   #. Exacerbation of congestive heart failure: Elevated BNP, history and
   exam consistent with CHF.  Patient has been taking 160mg PO lasix at
   home without much improvement in symptoms.  Last echo with normal EF,
   although given extent of MR likely over estimates the EF.
   - Continue nitro gtt for now for diuresis and BP control, aim to wean
   off.
   - Bolus with IV lasix as needed for goal UOP 2L negative.  Monitor UOP
   and daily weights.
   - Cycle enzymes, no suspicion of ACS given flat trend, no CP
   - Wean O2 as tolerated.
   - Repeat CXR pending
   - Consider repeat echocardiogram in the AM for evaluation of change in
   EF, WMA.  Last echo was done [**1-9**] and showed moderate to severe MR.
   [**Name13 (STitle) 1204**] acute presentation, ? role of surgical evaluation.
   .
   # Hypertensive emergency: High diastolic pressures.  Goal to lower
   blood pressure but not too quickly.  Goal with nitro gtt will be for
   SBP<160, DBP<110.  Patient had recently been weaned off of clonidine.
   - Restart all home medications and wean gtt as tolerated.
   - Ultrasound of graft today to eval for stenosis
   .
   #. CAD: Denies chest pain.  No history of CAD.  Reportedly had clean
   coronaries when worked up prior to AVR.  Slightly elevated troponin
   likely in setting of demand.  Will not treat further for NSTEMI
   currently, but if troponins become more positive will reconsider.
   - Continue statin  Patient declines aspirin [**1-1**] renal tx history.
   - Cycle enzymes as above.
   .
   #. Rhythm: Normal sinus rhythm
   - Continue to monitor on telemetry
   - Continue beta blockers, CCB as per outpatient regimen.
   .
   #. s/p renal transplant: Baseline creatinine 3.0.
   - Continue immunosuppresant regimen
   - Follow creatinine while diuresing.
   - Continue calcitriol, sensipar
   - Renal Transplant Consult
   .
   # Anemia: At baseline.
   - Continue to monitor.
   - Aranesp as per outpatient.
   .
   # Gout
   - Continue allopurinol
   .
   # Prostate CA s/p XRT, s/p Lupron: Not an active issue.
   .
   #. FEN
   - Low Na, renal diet
   - Monitor electrolytes and replete PRN
   .
   #. Access:  PIVs
   .
   #. PPx:
   - PPI, bowel regimen, heparin subq
   .
   #. Code:  Full
   .
   #. Dispo: CCU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2114-1-28**] 06:44 PM
   20 Gauge - [**2114-1-28**] 06:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add, agree with above
   Physical Examination
   nothing to add, agree with above
   Medical Decision Making
   nothing to add, agree with above
   Total time spent on patient care: 50 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 4646**] [**Name (NI) **]  on:[**2114-1-29**]
   18:01 ------

2114-01-30 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2114-1-29**] 09:40 AM-no increased resistance
   -Echo results, Severe LVH with moderate LV dilatation. Moderate to
   severe global LV hypokinesis with inferior akinesis. Bioprosthetic AVR
   with very high gradients. Unable to assess if vegetation or thrombus on
   aortic valve. At least moderate mitral regurgitation (UNDERestimated
   due to shadowing). Diastolic dysfunction with moderate pulmonary artery
   systolic hypertension. EF 20-25%
   -got 25mg PO Hydral for hypertension, then 20mg IV hydral x1
   -gave 100mg IV lasix x1 put out 600cc
   -weaned off nitro
   -echo:LVH with moderate LV dilatation. Moderate to severe global LV
   hypokinesis with inferior akinesis. EF20-25% Bioprosthetic AVR with
   very high gradients. Unable to assess if vegetation or thrombus on
   aortic valve. At least moderate mitral regurgitation (UNDERestimated
   due to shadowing). Diastolic dysfunction with moderate pulmonary artery
   systolic hypertension.
   -npo for ?tee in am
   -weaned to O2 to 2L but put on 4L for bedtime
   -hct stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-1-29**] 08:29 AM
   Heparin Sodium (Prophylaxis) - [**2114-1-29**] 02:30 PM
   Furosemide (Lasix) - [**2114-1-29**] 03:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-30**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 75 (67 - 97) bpm
   BP: 155/99(114) {110/74(84) - 157/108(119)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                    917 mL
                  PO:
                                                                    785 mL
                  TF:
   IVF:
                                                                    132 mL
   Blood products:
   Total out:
                                                                  1,835 mL
                                                                    350 mL
   Urine:
                                                                  1,835 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -918 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect
   appropriate.  Conversant without use of accessory muscles.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 10 cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal s1, s2. 2/6 systolic ejection murmur at apex. No thrills, lifts.
   No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Poor air movement.  Bilateral rales
   Abd: Soft, NTND. No HSM or tenderness.  + abdominal hernia.
   Ext: [**12-1**]+ ankle edema bilaterally. No femoral bruits.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   250 K/uL
   9.4 g/dL
   96 mg/dL
   3.4 mg/dL
   21 mEq/L
   4.0 mEq/L
   101 mg/dL
   108 mEq/L
   141 mEq/L
   27.8 %
   9.4 K/uL
        [image002.jpg]
                             [**2114-1-29**]  12:22 AM
                             [**2114-1-29**]  04:20 AM
                             [**2114-1-29**]  05:45 PM
                             [**2114-1-30**]  04:51 AM
   WBC
   8.7
   9.4
   Hct
   28.3
   30.1
   27.8
   Plt
   239
   250
   Cr
   3.1
   3.5
   3.4
   TropT
   0.27
   0.29
   Glucose
   120
   115
   96
   Other labs: PT / PTT / INR:14.1/30.3/1.2, CK / CKMB /
   Troponin-T:80/7/0.29, Ca++:9.3 mg/dL, Mg++:2.8 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   Patient is a 56 year old male with history of renal transplant [**2090**],
   s/p AVR who presents with exacerbation of heart failure.
   .
   #. Exacerbation of congestive heart failure: Elevated BNP, history and
   exam consistent with CHF.  Patient takes 160mg PO lasix at home without
   much improvement in symptoms.
   - Bolus with100mg IV lasix as needed for goal UOP 2L negative.  Monitor
   UOP and daily weights although patient did not meet goal
   - Wean O2 as tolerated.
   - Repeat CXR in the AM.
   .
   # Hypertensive emergency-weaned nitro drip off yesterday but had
   increase BP overnight not responsive to hydral
   - Restarte all home medications, cont to try and uptitrate for improved
   control
   .
   #. CAD: Denies chest pain.  No history of CAD.  Reportedly had clean
   coronaries when worked up prior to AVR.  Slightly elevated troponin
   likely in setting of demand.  Will not treat further for NSTEMI.
   - Continue ASA, statin
   - Cycle enzymes as above.
   .
   #. Rhythm: Normal sinus rhythm
   - Continue to monitor on telemetry
   - Continue beta blockers, CCB
   .
   #. s/p renal transplant: Baseline creatinine 3.0.
   - Continue immunosuppresant regimen
   - Follow creatinine
   - Continue calcitriol, sensipar
   .
   # Anemia: At baseline.
   - Continue to monitor.
   - Aranesp as per outpatient.
   .
   # Gout
   - Continue allopurinol
   .
   # Prostate CA s/p XRT, s/p Lupron: Not an active issue.
   .
   #. FEN
   - Low Na, renal diet
   - Monitor electrolytes and replete PRN
   .
   #. Access:  PIVs
   .
   #. PPx:
   - PPI, bowel regimen, heparin subq
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-1-28**] 06:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: CCU for now

2114-01-30 10:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2114-1-29**] 09:40 AM-no increased resistance
   -got 25mg PO Hydral for hypertension, then 20mg IV hydral x1
   -gave 100mg IV lasix x1 put out 600cc
   -weaned off nitro
   -echo:LVH with moderate LV dilatation. Moderate to severe global LV
   hypokinesis with inferior akinesis. EF20-25% Bioprosthetic AVR with
   very high gradients. Unable to assess if vegetation or thrombus on
   aortic valve. At least moderate mitral regurgitation (UNDERestimated
   due to shadowing). Diastolic dysfunction with moderate pulmonary artery
   systolic hypertension.
   -npo for ?tee in am
   -weaned to O2 to 2L but put on 4L for bedtime
   -hct stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-1-29**] 08:29 AM
   Heparin Sodium (Prophylaxis) - [**2114-1-29**] 02:30 PM
   Furosemide (Lasix) - [**2114-1-29**] 03:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-30**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 75 (67 - 97) bpm
   BP: 155/99(114) {110/74(84) - 157/108(119)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                    917 mL
                  PO:
                                                                    785 mL
                  TF:
   IVF:
                                                                    132 mL
   Blood products:
   Total out:
                                                                  1,835 mL
                                                                    350 mL
   Urine:
                                                                  1,835 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -918 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect
   appropriate.  Conversant without use of accessory muscles.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 10 cm.
   CV: PMI located in 5th intercostal space, midclavicular line but
   enlarged with LV heave. RR, normal s1, s2. 2/6 systolic ejection murmur
   at apex. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Poor air movement.  Bilateral rales
   at bases
   Abd: Soft, NTND. No HSM or tenderness.  + abdominal hernia.
   Ext: [**12-1**]+ ankle edema bilaterally. No femoral bruits.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   250 K/uL
   9.4 g/dL
   96 mg/dL
   3.4 mg/dL
   21 mEq/L
   4.0 mEq/L
   101 mg/dL
   108 mEq/L
   141 mEq/L
   27.8 %
   9.4 K/uL
        [image002.jpg]
                             [**2114-1-29**]  12:22 AM
                             [**2114-1-29**]  04:20 AM
                             [**2114-1-29**]  05:45 PM
                             [**2114-1-30**]  04:51 AM
   WBC
   8.7
   9.4
   Hct
   28.3
   30.1
   27.8
   Plt
   239
   250
   Cr
   3.1
   3.5
   3.4
   TropT
   0.27
   0.29
   Glucose
   120
   115
   96
   Other labs: PT / PTT / INR:14.1/30.3/1.2, CK / CKMB /
   Troponin-T:80/7/0.29, Ca++:9.3 mg/dL, Mg++:2.8 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   Patient is a 56 year old male with history of renal transplant [**2090**],
   s/p AVR who presents with exacerbation of heart failure.
   .
   #. Exacerbation of congestive heart failure: Elevated BNP, history and
   exam consistent with CHF.  Patient takes 160mg PO lasix at home without
   much improvement in symptoms.   Likely [**1-1**] to worsening AS seen on
   echo. Unclear why bovine valve with degenerate so quickly
   -TEE today to evaluate valve
   - Bolus with100mg IV lasix as needed for goal UOP 1L negative.  Monitor
   UOP and daily weights although patient did not meet goal
   - Wean O2 as tolerated.
   - Repeat CXR in the AM.
   .
   # Hypertensive emergency-weaned nitro drip off yesterday but had
   increase BP overnight not responsive to hydral
   - Restarted all home medications, cont to try and uptitrate for
   improved control by increased metoprolol 50mg PO TID
   -look into role of new meds Lupron, Aranesp for etiology of htn
   .
   #. CAD: Denies chest pain.  No history of CAD.  Reportedly had clean
   coronaries when worked up prior to AVR.  Slightly elevated troponin
   likely in setting of demand.  Will not treat further for NSTEMI.
   - Continue ASA, statin
   - Cycle enzymes as above.
   .
   #. Rhythm: Normal sinus rhythm
   - Continue to monitor on telemetry
   - Continue beta blockers, CCB
   .
   #. s/p renal transplant: Baseline creatinine 3.0.
   - Continue immunosuppresant regimen
   - Follow creatinine
   - Continue calcitriol, sensipar
   -appreciate renal recs
   .
   # Anemia: At baseline.
   - Continue to monitor.
   - Aranesp as per outpatient.
   .
   # Gout
   - Continue allopurinol
   .
   # Prostate CA s/p XRT, s/p Lupron: Not an active issue.
   .
   #. FEN
   - Low Na, renal diet
   - Monitor electrolytes and replete PRN
   .
   #. Access:  PIVs
   .
   #. PPx:
   - PPI, bowel regimen, heparin subq
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-1-28**] 06:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   Critically ill due to acute diastolic and systolic heart failure,
   severe aortic stenosis, mitral regurgitation, renal failure
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Name (NI) **], MD
   on:[**2114-2-2**] 09:15 ------

2114-01-31 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Renal failure worsening; checking urine lytes-> Feurea 34
   ? rejection with cyclosporine <25, will d/w renal
   Given lasix 100IV x 1. Did not repeat later since negative approx
   1300cc and bumped cr
   Planned for TEE to assess aortic valve
   Improved BP control
   renal recs: agree with diuretics and increasing metoprolol to TID
   S: Feels SOB ad LE edema improved
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-1-30**] 08:28 AM
   Furosemide (Lasix) - [**2114-1-30**] 01:57 PM
   Heparin Sodium (Prophylaxis) - [**2114-1-30**] 08:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-31**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 98 (61 - 117) bpm
   BP: 127/111(115) {114/72(86) - 160/111(118)} mmHg
   RR: 18 (14 - 24) insp/min
   SpO2: 94% 2L NC
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 76.8 kg (admission): 80.7 kg
                  Total In:
                                                                    640 mL
                  PO:
                                                                    640 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                    790 mL
   Urine:
                                                                  1,960 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,320 mL
                                                                   -790 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///19/
   Physical Examination
   Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect
   appropriate.  Conversant without use of accessory muscles.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 8 cm.
   CV: PMI located in 5th intercostal space, midclavicular line but
   enlarged with LV/RV heave. RR, normal s1, s2. 3/6 systolic murmur at
   LUSB. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Improved air movement.
   Abd: Soft, NTND. No HSM or tenderness.  + abdominal hernia.
   Ext: Trace ankle edema bilaterally. No femoral bruits.
   Labs / Radiology
   285 K/uL
   9.8 g/dL
   93 mg/dL
   3.6 mg/dL
   19 mEq/L
   4.1 mEq/L
   108 mg/dL
   107 mEq/L
   139 mEq/L
   28.6 %
   10.4 K/uL
        [image002.jpg]  Previous Cr 3.8 o/n<-3.4 Previous HCO3 21 Prev HCT
   27.8
                             [**2114-1-29**]  12:22 AM
                             [**2114-1-29**]  04:20 AM
                             [**2114-1-29**]  05:45 PM
                             [**2114-1-30**]  04:51 AM
                             [**2114-1-30**]  07:17 PM
                             [**2114-1-31**]  05:37 AM
   WBC
   8.7
   9.4
   10.4
   Hct
   28.3
   30.1
   27.8
   28.6
   Plt
   [**Telephone/Fax (3) 8302**]
   Cr
   3.1
   3.5
   3.4
   3.8
   3.6
   TropT
   0.27
   0.29
   0.30
   Glucose
   120
   115
   96
   131
   93
   Other labs: PT / PTT / INR:14.1/30.3/1.2, CK / CKMB /
   Troponin-T:80/7/0.30, Ca++:9.2 mg/dL, Mg++:2.8 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
   Patient is a 56 year old male with history of renal transplant [**2090**],
   s/p AVR who presents with exacerbation of heart failure.
   .
   #. Exacerbation of congestive heart failure: Elevated BNP, history and
   exam consistent with CHF.  Patient takes 160mg PO lasix at home without
   much improvement in symptoms.   Likely [**1-1**] to worsening AS seen on
   echo. Unclear why bovine valve would degenerate so quickly but likely
   contributed to by renal failure. Negative 1600cc yesterday with lasix
   100 IV and has had bump in creatinine. Clinical exam much improved with
   decreased rales and peripheral edema.
   -TEE today to evaluate valve
   - Wean O2 as tolerated.
   - Repeat CXR in the AM.
   .
   # Hypertensive emergency-weaned nitro drip off 2 days ago but continues
   to have elevated DBPs. [**Month (only) 60**] also be precipitated by worsening renal
   failure or by weaning off his clonidine
   - Restarted all home medications, cont to try and uptitrate for
   improved control by increased metoprolol 50mg PO TID, also on
   nifedipine CR 60 daily, valsartan 320, lisinopril 40
   - consider uptitration
   - look into role of new meds Lupron, Aranesp for etiology of htn
   - may switch to coreg or labetolol ; will d/w outpatient cardiologist.
   .
   #. CAD: Denies chest pain.  No history of CAD.  Reportedly had clean
   coronaries when worked up prior to AVR.  Slightly elevated troponin
   likely in setting of demand.  Will not treat further for NSTEMI.
   Biomarkers flat
   - Continue ASA, statin
   .
   #. Rhythm: Normal sinus rhythm
   - Continue to monitor on telemetry
   - Continue beta blockers, CCB
   .
   #. Acute on chronic renal failure s/p renal transplant: Baseline
   creatinine 3.0. Cr slightly up from baseline. FEurea 34, possibly
   prerenal, overdiuresis. Cyclosporin level also less than 25. Will d/w
   real if possibly rejection.
   - Continue immunosuppresant regimen
   - Follow creatinine
   - Continue calcitriol, sensipar
   -appreciate renal recs
   .
   # Anemia: At baseline.
   - Continue to monitor.
   - Aranesp as per outpatient.
   .
   # Gout
   - Continue allopurinol
   .
   # Prostate CA s/p XRT, s/p Lupron: Not an active issue.
   .
   #. FEN
   - Low Na, renal diet
   - Monitor electrolytes and replete PRN
   .
   #. Access:  PIVs
   .
   #. PPx:
   - PPI, bowel regimen, heparin subq
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-1-30**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: callout to floor

2114-01-31 09:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Renal failure worsening; checking urine lytes-> Feurea 34
   ? rejection with cyclosporine <25, will d/w renal
   Given lasix 100IV x 1. Did not repeat later since negative approx
   1300cc and bumped cr
   Planned for TEE to assess aortic valve
   Improved BP control
   renal recs: agree with diuretics and increasing metoprolol to TID
   S: Feels SOB ad LE edema improved
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-1-30**] 08:28 AM
   Furosemide (Lasix) - [**2114-1-30**] 01:57 PM
   Heparin Sodium (Prophylaxis) - [**2114-1-30**] 08:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-31**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 98 (61 - 117) bpm
   BP: 127/111(115) {114/72(86) - 160/111(118)} mmHg
   RR: 18 (14 - 24) insp/min
   SpO2: 94% 2L NC
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 76.8 kg (admission): 80.7 kg
                  Total In:
                                                                    640 mL
                  PO:
                                                                    640 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                    790 mL
   Urine:
                                                                  1,960 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,320 mL
                                                                   -790 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///19/
   Physical Examination
   Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect
   appropriate.  Conversant without use of accessory muscles.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 8 cm.
   CV: PMI located in 5th intercostal space, midclavicular line but
   enlarged with LV/RV heave. RR, normal s1, s2. 3/6 systolic murmur at
   LUSB. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Improved air movement.
   Abd: Soft, NTND. No HSM or tenderness.  + abdominal hernia.
   Ext: Trace ankle edema bilaterally. No femoral bruits.
   Labs / Radiology
   285 K/uL
   9.8 g/dL
   93 mg/dL
   3.6 mg/dL
   19 mEq/L
   4.1 mEq/L
   108 mg/dL
   107 mEq/L
   139 mEq/L
   28.6 %
   10.4 K/uL
        [image002.jpg]  Previous Cr 3.8 o/n<-3.4 Previous HCO3 21 Prev HCT
   27.8
                             [**2114-1-29**]  12:22 AM
                             [**2114-1-29**]  04:20 AM
                             [**2114-1-29**]  05:45 PM
                             [**2114-1-30**]  04:51 AM
                             [**2114-1-30**]  07:17 PM
                             [**2114-1-31**]  05:37 AM
   WBC
   8.7
   9.4
   10.4
   Hct
   28.3
   30.1
   27.8
   28.6
   Plt
   [**Telephone/Fax (3) 8302**]
   Cr
   3.1
   3.5
   3.4
   3.8
   3.6
   TropT
   0.27
   0.29
   0.30
   Glucose
   120
   115
   96
   131
   93
   Other labs: PT / PTT / INR:14.1/30.3/1.2, CK / CKMB /
   Troponin-T:80/7/0.30, Ca++:9.2 mg/dL, Mg++:2.8 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
   Patient is a 56 year old male with history of renal transplant [**2090**],
   s/p AVR who presents with exacerbation of heart failure.
   .
   #. Exacerbation of congestive heart failure: Elevated BNP, history and
   exam consistent with CHF.  Patient takes 160mg PO lasix at home without
   much improvement in symptoms.   Likely [**1-1**] to worsening AS seen on
   echo. Unclear why bovine valve would degenerate so quickly but likely
   contributed to by renal failure. Negative 1600cc yesterday with lasix
   100 IV and has had bump in creatinine. Clinical exam much improved with
   decreased rales and peripheral edema.
   -TEE today to evaluate valve
   - Wean O2 as tolerated.
   - Repeat CXR in the AM.
   .
   # Hypertensive emergency-weaned nitro drip off 2 days ago but continues
   to have elevated DBPs. [**Month (only) 60**] also be precipitated by worsening renal
   failure or by weaning off his clonidine
   - Restarted all home medications, cont to try and uptitrate for
   improved control by increased metoprolol 50mg PO TID, also on
   nifedipine CR 60 daily, valsartan 320, lisinopril 40
   - consider uptitration
   - look into role of new meds Lupron, Aranesp for etiology of htn
   - may switch to coreg or labetolol ; will d/w outpatient cardiologist.
   .
   #. CAD: Denies chest pain.  No history of CAD.  Reportedly had clean
   coronaries when worked up prior to AVR.  Slightly elevated troponin
   likely in setting of demand.  Will not treat further for NSTEMI.
   Biomarkers flat
   - Continue ASA, statin
   .
   #. Rhythm: Normal sinus rhythm
   - Continue to monitor on telemetry
   - Continue beta blockers, CCB
   .
   #. Acute on chronic renal failure s/p renal transplant: Baseline
   creatinine 3.0. Cr slightly up from baseline. FEurea 34, possibly
   prerenal, overdiuresis. Cyclosporin level also less than 25. Will d/w
   real if possibly rejection.
   - Continue immunosuppresant regimen
   - Follow creatinine
   - Continue calcitriol, sensipar
   -appreciate renal recs
   .
   # Anemia: At baseline.
   - Continue to monitor.
   - Aranesp as per outpatient.
   .
   # Gout
   - Continue allopurinol
   .
   # Prostate CA s/p XRT, s/p Lupron: Not an active issue.
   .
   #. FEN
   - Low Na, renal diet
   - Monitor electrolytes and replete PRN
   .
   #. Access:  PIVs
   .
   #. PPx:
   - PPI, bowel regimen, heparin subq
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-1-30**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: callout to floor
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   critically ill due to acute diastolic and systolic heart failure,
   severe aortic stenosis, renal failure.
   Total time spent on patient care: 35 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Name (NI) **], MD
   on:[**2114-2-2**] 09:17 ------